US07767675B2
Step 4. 2-chloro-N-methyl-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzamide
N,N-Diisopropylethylamine (14 μL, 0.081 mmol) was added to a mixture of 2-chloro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoic acid (0.027 mmol), methylamine (2M in THF, 0.2 mL, 0.4 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (14 mg, 0.032 mmol) in N,N-dimethylformamide (0.5 mL). The mixture was stirred at RT for 2 h, and then purified by RP-HPLC (pH 10) to afford the desired product. LCMS: (M+H)=454.1/456.0.

reactant | N,N-Diisopropylethylamine | 0.081 mmol, 14 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-chloro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoic acid | 0.027 mmol | ClC1=C(C(=O)O)C=CC(=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C25H17ClN4O2
reactant | methylamine | 0.4 mmol, 2M, 0.2 mL | CN | CH5N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.032 mmol, 14 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 2-chloro-N-methyl-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzamide | ClC1=C(C(=O)NC)C=CC(=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C26H20ClN5O
